US09340538B2
4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(3-fluoropyridin-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(3-fluoropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.75 g, 1.53 mmol) was reacted with morpholine-2-carboxylic acid (0.26 g, 1.53 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.35 g, 43%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(3-fluoropyridin-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.75 g | BrCC1=C(C(N=C(N1)C1=NC=CC=C1F)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C19H15BrCl2FN3O2
reactant | morpholine-2-carboxylic acid | 1.53 mmol, 0.26 g | N1CC(OCC1)C(=O)O | C5H9NO3
product | 4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(3-fluoropyridin-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid | 0.35 g, 43% | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C1=NC=CC=C1F)CN1CC(OCC1)C(=O)O)C(=O)OCC | C24H23Cl2FN4O5
